US04657913
2,3,4,5-Tetrafluoro-1-nitrobenzene
To one liter of concentrated sulfuric acid was added, at 5° C., 100 ml of 1,2,3,4-tetrafluorobenzene. Then a mixture of 100 ml of 70% nitric acid premixed with 200 ml of concentrated sulfuric acid at 0° C. was slowly added. The reaction was stirred at 0° C. for one hour, and then one hour at 25° C. The mixture was poured over ice and extracted with dichloromethane, which was dried and concentrated to give 120 g of a thick residue which was one spot thin layer chromatography. This product was used for the next step without purification.

reactant | 1,2,3,4-tetrafluorobenzene | 100 ml | FC1=C(C(=C(C=C1)F)F)F | C6H2F4
reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | one liter | S(O)(O)(=O)=O | H2O4S
product | 2,3,4,5-Tetrafluoro-1-nitrobenzene | 120 g | FC1=C(C=C(C(=C1F)F)F)[N+](=O)[O-] | C6HF4NO2
